US05919793
Using a similar procedure to that described in Example 10, but using 1-(4-bromo-2,6-dimethylphenoxy)-2-phenoxyethanol as starting material in place of 1-(4-bromo-2,6-dimethylphenoxy)-2-methoxyethane and extracting the aqueous mixture obtained after diluting the reaction mixture with 2M aqueous sodium hydroxide with dichloromethane instead of diethyl ether, there was obtained 3-[2-(4-{2-phenoxyethoxy}-3,5-dimethylphenyl)ethynyl]quinuclidine-3-ol (28% yield) as a solid, m.p. 141-142° C. (after recrystallisation from acetonitrile); microanalysis, found: C, 76.2; H, 7.4; N, 3.5%; C25H29NO3 requires: C, 76.7, H, 7.5; N, 3.6%; in 28% yield NMR ([CD3 ]2O): 1.2-1.4(1H,m), 1.5-1.65(1H,m), 1.7-2.0(3H,m), 2.15-2.3(6H,s), 2.6-2.75(4H,t), 2.75-2.9(1H,d), 2.95-3.1(1H,d), 4.0-4.3(4H,m), 5.5(1H,s), 6.9-7.05(3H,m), 7.1(2H,s) and 7.25-7.4(2H,m); m/z 392 (M+H).

reactant | 1-(4-bromo-2,6-dimethylphenoxy)-2-phenoxyethanol | BrC1=CC(=C(OC(COC2=CC=CC=C2)O)C(=C1)C)C | C16H17BrO3
reactant | 1-(4-bromo-2,6-dimethylphenoxy)-2-methoxyethane | BrC1=CC(=C(OCCOC)C(=C1)C)C | C11H15BrO2
reactant | acetonitrile | C(C)#N | C2H3N
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | sodium hydroxide | 2M | [OH-].[Na+]
product | 3-[2-(4-{2-phenoxyethoxy}-3,5-dimethylphenyl)ethynyl]quinuclidine-3-ol | 28% yield | O(C1=CC=CC=C1)CCOC1=C(C=C(C=C1C)C#CC1(CN2CCC1CC2)O)C | C25H29NO3
